US06586369B1
3-Chloro-1-((4-fluorophenyl)amino)-4-phenylpyrrol-2,5-dione (Table 1, No. 27)
3.13 g (15 mmol) of 3-chloro-4-phenylfuran-2,5-dione and 2.44 g (15 mmol) of 4-fluorophenylhydrazine hydrochloride were initially charged in 50 ml of methylene chloride, and the mixture was, at room temperature, admixed dropwise with stirring with 1.52 g (15 mmol) of triethylamine and stirred at room temperature overnight. A further 50 ml of methylene chloride were added, and the mixture was washed three times with in each case 80 ml of water, dried over sodium sulfate and concentrated under reduced pressure. Yield: 3.9 g of a crystalline solid, m.p. 115-117° C.

reactant | 3-chloro-4-phenylfuran-2,5-dione | 15 mmol, 3.13 g | ClC=1C(OC(C1C1=CC=CC=C1)=O)=O | C10H5ClO3
reactant | 4-fluorophenylhydrazine hydrochloride | 15 mmol, 2.44 g | Cl.FC1=CC=C(C=C1)NN
reactant | triethylamine | 15 mmol, 1.52 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 3-Chloro-1-((4-fluorophenyl)amino)-4-phenylpyrrol-2,5-dione | ClC=1C(N(C(C1C1=CC=CC=C1)=O)NC1=CC=C(C=C1)F)=O | C16H10ClFN2O2
